US03965167
N-acetyl-L-cysteine ammonium salt can also be obtained by modification of the above procedure as follows. About 6.5 ml. of concentrated ammonium hydroxide is added slowly to a stirred mixture of N-acetyl-L-cysteine (16.3 g., 0.1 mole) in 100 ml. of water. The pH of the mixture should be 7 at the end of the addition. The solvent is allowed to evaporate and the white residue thus obtained when dried to constant weight at 45°C. in vacuo over phosphorous pentoxide provides a quantitative yield (18 g.,) of analytically pure ammonium N-acetyl-L-cysteinate, M.P. 148°- 150°C. (dec.), [ α ]D25 + 20.3°(c 5,H2O).

reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | N-acetyl-L-cysteine | 0.1 mole, 16.3 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
solvent | water | O | H2O
product | ammonium N-acetyl-L-cysteinate | quantitative yield | C(C)(=O)N[C@@H](CS)C(=O)[O-].[NH4+] | InChI=1S/C5H9NO3S.H3N/c1-3(7)6-4(2-10)5(8)9;/h4,10H,2H2,1H3,(H,6,7)(H,8,9);1H3/t4-;/m0./s1
